US06426417B1
5-(3-[1,3-Dioxolan-2-yl]propyl)-2-thiophene Carboxylic Acid
To a solution of 64.8 g (640 mmol, 83.9 mL) of diisopropyl amine in 400 mL of tetrahydrofuran which had been cooled to −15° C. was added 400 mL (640 mmol) of 1.6M n-butyllithium in hexane dropwise over 25 minutes, maintaining the reaction temperature below −5° C. After a 15 minute stir time, a solution of 5-methyl-2-thiophenecarboxylic acid (41.4 g, 291 mmol) in 150 mL of tetrahydrofuran was added dropwise over 30 minutes, once again keeping the temperature below −5° C. The resultant dark green dianion solution was stirred at −15° C. to −10° C. for 90 minutes. To this solution was added 2-(2-bromoethyl)-1,3-dioxolane (57.9 g, 320 mmol) dropwise over 15 minutes and the magenta-colored mixture was stirred for 3 hours at −10° C. to −5° C. HPLC analysis (30% acetonitrile/70% 1% aqueous acetic acid solution, 2 mL/min, 30 cm C-18 column, λ=280 nm) at this time showed 9.0% 5-methyl-2-thiophenecarboxylic acid and 88.5% title compound. The reaction was quenched with 600 mL of water and acidified to pH 3 with 6N aqueous hydrochloric acid. The yellow mixture was extracted three times with 500 mL of t-butylmethyl ether and the combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. The crude product was triturated with 300 mL of heptane and the solid was filtered, washed with heptane, and pulled dry on the filter to provide 58.21 g (82.5%) of the title compound which contained less than 3% starting material by 1H NMR. 1H NMR (300 MHz, CDCl3) δ 1.81 (m, 4H), 2.91 (t, J=7.4 Hz, 2H), 3.92 (m, 4H), 4.90 (t, J=4.4 Hz, 1H), 6.84 (d, J=3.7 Hz, 1H), 7.72 (d, J=3.7 Hz, 1H).

reactant | diisopropyl amine | 640 mmol, 83.9 mL, 64.8 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 640 mmol, 1.6M, 400 mL | C(CCC)[Li]
reactant | 5-methyl-2-thiophenecarboxylic acid | 291 mmol, 41.4 g | CC1=CC=C(S1)C(=O)O | C6H6O2S
reactant | 2-(2-bromoethyl)-1,3-dioxolane | 320 mmol, 57.9 g | BrCCC1OCCO1 | C5H9BrO2
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-(3-[1,3-Dioxolan-2-yl]propyl)-2-thiophene Carboxylic Acid | 88.5% | O1C(OCC1)CCCC1=CC=C(S1)C(=O)O | C11H14O4S
